US04474793
Pivaloyloxymethyl 3-acetylthio-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate
To a solution of 22 mg of pivaloyloxymethyl 3-acetylthio-8-oxo-4,5-dithia-1-azabicyclo[4,2,0]oct-2-ene-2-carboxylate in deuterochloroform were added 14.7 mg of triphenylphosphine. TLC analysis indicated complete conversion of the starting material and the product was shown by IR and NMR analysis to be the title compound. This product was isolated by chromatography on silica gel using ethyl acetate/hexane mixtures as solvent. The yield of product was 13 mg (65%).

reactant | pivaloyloxymethyl 3-acetylthio-8-oxo-4,5-dithia-1-azabicyclo[4,2,0]oct-2-ene-2-carboxylate | 22 mg | C(C)(=O)SC1=C(N2C(CC2SS1)=O)C(=O)OCOC(C(C)(C)C)=O | C14H17NO6S3
reactant | triphenylphosphine | 14.7 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | deuterochloroform | [2H]C(Cl)(Cl)Cl | CHCl3
product | Pivaloyloxymethyl 3-acetylthio-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate | C(C)(=O)SC1=C(N2C(CC2S1)=O)C(=O)OCOC(C(C)(C)C)=O | C14H17NO6S2
